US06964961B2
A. (+/−)-[1-(7-Chloro-thieno[3,2-b]pyridine-2-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
The title compound was prepared from lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate and racemic pyrrolidin-3-yl-carbamic acid tert butyl ester by a method analogous to Example 1B. MS: 382/384 (MH+); HPLC Rf: 5.21 min.; HPLC purity 99%.

reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | racemic pyrrolidin-3-yl-carbamic acid tert butyl ester | C(C)(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
product | (+/−)-[1-(7-Chloro-thieno[3,2-b]pyridine-2-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl)=O | C17H20ClN3O3S
